US04728355
A stirred solution of 2.0 grams of 4-amino-3,6-dichloropyridazine and 2.5 ml of hydrazine hydrate in 20 ml of ethanol is heated under reflux for three hours. After this time water is added to the reaction mixture and the resultant precipitate collected by filtration. The filter cake is recrystallized from ethanol to yield 2.3 grams of 3-hydrazino-4-amino-6-chloropyridazine; m.p. 190° C.

reactant | 4-amino-3,6-dichloropyridazine | 2.0 grams | NC1=C(N=NC(=C1)Cl)Cl | C4H3Cl2N3
reactant | hydrazine hydrate | 2.5 ml | O.NN
reactant | water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-hydrazino-4-amino-6-chloropyridazine | 2.3 grams | N(N)C=1N=NC(=CC1N)Cl | C4H6ClN5
